2137-08-07 11:39:00 Physician Resident Progress Note
Chief Complaint: Hypotension and Positive Blood Cultures
   24 Hour Events:
 MULTI LUMEN - START [**2137-8-6**] 09:36 PM
 PICC LINE - START [**2137-8-6**] 09:38 PM- present on arrival, unclear as
   to when this was placed
 SPUTUM CULTURE - At [**2137-8-7**] 03:12 AM
 STOOL CULTURE - At [**2137-8-7**] 03:12 AM
   stool for c.diff testing
 BLOOD CULTURED - At [**2137-8-7**] 06:11 AM
   History obtained from Medical records, EMS/ED
   Patient unable to provide history: Unresponsive
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-7**] 01:45 AM
   Vancomycin - [**2137-8-7**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-8-7**] 06:12 AM
   Famotidine (Pepcid) - [**2137-8-7**] 08:00 AM
   Other medications:
   Metoprolol 50 mg TID
   HAART as ordered
   Thiamine
   Ipratropium Bromide nebs
   Albuterol nebs
   Atovaquone
   Metoclopramide
   Scopolamine Patch
   Colistin
   Mefloquine
   Acetaminophen
   K+ SS
   Mag SS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-7**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.8
   HR: 118 (96 - 121) bpm
   BP: 100/51(63) {81/44(57) - 108/65(74)} mmHg
   RR: 26 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  2,275 mL
                                                                  3,019 mL
   PO:
             TF:
             226 mL
   IVF:
                                                                  1,000 mL
                                                                  2,433 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                    680 mL
   Urine:
                                                                    450 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,825 mL
                                                                  2,339 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   FiO2: 35%
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, tracheostomy
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : anteriorly, No(t) Rhonchorous: ), Coarse BS bl
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, Responds to: Noxious stimuli, No(t)
   Oriented (to): , Movement: Not assessed, Tone: Not assessed, Nonverbal
   Labs / Radiology
   212 K/uL
   8.7 g/dL
   106 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   15 mg/dL
   103 mEq/L
   138 mEq/L
   24.9 %
   4.2 K/uL
        [image002.jpg]
                             [**2137-8-7**]  01:30 AM
                             [**2137-8-7**]  09:30 AM
   WBC
   4.2
   4.2
   Hct
   25.5
   24.9
   Plt
   250
   212
   Cr
   0.5
   TropT
   <0.01
   Glucose
   106
   Other labs: PT / PTT / INR:14.4/37.9/1.3, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:39/34, Alk Phos / T Bili:77/0.4,
   Amylase / Lipase:25/25, Albumin:2.8 g/dL, LDH:255 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 36 M with end stage HIV/AIDS, known PML, with
   trach in [**Hospital1 169**]; now admit with hypotension and positive blood and sputum
   cultures.
 HYPOTENSION (NOT SHOCK)
   Per [**Hospital1 630**] his baseline bp appears to be mid 90s, had one BP of 84/52
   on [**8-2**] but [**Name8 (MD) **] RN supervisor appears to have been in the 90s since.
   Believes sent in more for low grade temps (up to 100.8 off and on); in
   ED had SBP 90 and has been in the 90's to 100's since.  Has advanced
   HIV but no recent CD4 count (none since prior to HAART) so therefore
   may be at high risk for infection.  Also with indwelling line x unclear
   time period.
   - Blood and urine cultures pending.
   - Resent sputum culture, though no evidence of infiltrate on CXR
   (unlikely to treat based on likely colonization).
   - Vanco and zosyn for GNR coverage for now while awaiting cultures.
   - 2 c.diffs negative in last ~week; follow up third to r/o.
   - Further workup for sepsis can be tailored based on CD4 count
   (pending).
   - Consider workup/treatment coverage for PCP, [**Name10 (NameIs) **] nothing on CXR and
   oxygenation good (and has been on ppx).
   - LP likely low yield, will reconsider if w/u negative
   - If appearing septic; goal direceted therapy with fluid boluses,
   pressors to keep MAP >65, Aline placement, [**Last Name (un) 45**] stim.
   - Keep PICC for now, will readdress following cx results; keep femoral
   line for now but if CVL needed for few days can change to IJ/SC.
   - Consider non-infectious causes of hypotension (ROMI,
   bleed/hypovolemia).
   - Will give low dose beta block for now, increase as BP tolerates back
   to home dose.
   # Bacteremia.  Last positive culture several weeks ago; was on vanco in
   past but course appears completed.  Has L PICC, unclear how old.
   - f/u cultures as above
   - Coverage with vanco.
   - HD monitoring as above.
   - Will keep lines in pending cx results, given chronic course of
   current illness.
   # Positive sputum cultures. No clear evidence of pneumonia on CXR, but
   with significant immunosuppresion.
   - Will continue zosyn for now.
   - can check sputum cultures, but unclear if treatment warranted given
   lack of infiltrate.
   - cont home colistin.
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   - Temp to 100.4 Axillary, workup as above
   - Acetaminophen as needed for fever
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - Pt s/p trach, copious secretion, and baseline colonization.
   - CXR am of [**8-8**]
 TACHYCARDIA, OTHER
   Sinus.  Likely long standing (though unclear etiology) given [**Name (NI) 169**] dosing
   of 400 mg metoprolol daily.
   - give low dose BB for now, being careful to avoid exacerbating
   hypotension.
   - received 3+ Liters NS boluses, with good response in BP, but HR
   continues to be 100-120
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Last CD4 count 17 was prior to HAART; now on HAART x 4 months.
   - Recheck CD4
   - Continue HAART.
   - Continue atovaquone for prophylaxis.
   - Mefloquine
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive multifocal leukoencephalopathy
   Very poor mental status at baseline, does not appear changed per
   [**Hospital1 630**] reports.  Progressive neurologic impairment as expected.
   - Consider head CT/LP for workup of fever as above, though does not
   appear that mental status worsening- will hold off for now.
   - Goals of care discussion with mother when able
 ANEMIA, CHRONIC
   Macrocytic likely [**2-2**] HAART.  No change in last week.  Will continue to
   monitor.
   # History of EtOH abuse.  Now at skilled nursing, no concern for
   withdrawal issues.
   # FEN. Tube feeds, nutrition consult in for regimen similar to that at
   [**Hospital1 **]
   # PPx: HSQ, H2 blocker.
   # Access: R femoral TLC.  L sided PICC.
   # Communication.  Mother [**Name (NI) 249**] is HCP; number is [**Telephone/Fax (1) 3958**];
   unable to reach on [**2137-8-6**].
   # Dispo.  ICU pending stability of BP, treatment of ?infection.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-8-7**] 01:55 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-8-6**] 09:36 PM
   PICC Line - [**2137-8-6**] 09:38 PM
   Comments: Will leave PICC in place overnight, pending cx results.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Mother is contact, reportedly only answers
   phone after 10 AM
   [**Doctor First Name **] ([**Telephone/Fax (1) 3978**]
   Code status: Full code per available notes, confirm with HCP today
   Disposition:ICU pending further w/u

2137-08-08 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2137-8-7**] 02:00 PM
 Hypotensive, required 1L NS bolus
 Hct dropped from 24.9 to 22.5-transfused 1 U PRBCs
 Sputum cultures 8/6, no organisms thus far
 Mother to come in today to discuss care plan and code status
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2137-8-7**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-7**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-7**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-8**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.2
C (99
   HR: 100 (87 - 120) bpm
   BP: 90/48(58) {77/40(48) - 103/58(68)} mmHg
   RR: 21 (12 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85.5 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  5,725 mL
                                                                    675 mL
   PO:
             TF:
                                                                    883 mL
                                                                    243 mL
   IVF:
                                                                  3,997 mL
                                                                    272 mL
   Blood products:
                                                                    265 mL
   Total out:
                                                                  2,085 mL
                                                                  1,040 mL
   Urine:
                                                                  1,970 mL
                                                                  1,040 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,640 mL
                                                                   -365 mL
   Respiratory support
   O2 Delivery Device: Trach mask  , 35% FiO2
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Gen: Unresponsive, does not appear agitated
   Skin: no rash
   HEENT: Trach mask, copious secretions, mucous membranes moist
   Chest: Coarse/ronchorous breath sounds bl
   Heart: RRR, no murmur
   Abd: Soft, ND, pos bowel sounds
   Ext: [**2-3**]+ edema in bl LE
   Neuro: Unresponsive, eyes open spontaneously
   Labs / Radiology
   187 K/uL
   8.5 g/dL
   109 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.7 mEq/L
   10 mg/dL
   105 mEq/L
   138 mEq/L
   24.8 %
   2.5 K/uL
        [image002.jpg]
                             [**2137-8-7**]  01:30 AM
                             [**2137-8-7**]  09:30 AM
                             [**2137-8-7**]  07:30 PM
                             [**2137-8-8**]  03:00 AM
   WBC
   4.2
   4.2
   2.5
   Hct
   25.5
   24.9
   22.5
   24.8
   Plt
   [**Telephone/Fax (3) 4009**]
   Cr
   0.5
   0.6
   TropT
   <0.01
   Glucose
   106
   109
   Other labs: PT / PTT / INR:16.4/36.1/1.5, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:37/33, Alk Phos / T Bili:71/0.5,
   Amylase / Lipase:21/20, Albumin:2.6 g/dL, LDH:209 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   CD4 53
   Assessment and Plan
   36 M with end stage HIV/AIDS, known PML, with trach in [**Hospital1 169**]; now admit
   with hypotension and positive blood and sputum cultures.
 HYPOTENSION (NOT SHOCK)
   Per [**Hospital1 630**] his baseline bp appears to be mid 90s, had one BP of 84/52
   on [**8-2**] but [**Name8 (MD) **] RN supervisor appears to have been in the 90s since.
   Believes sent in more for low grade temps (up to 100.8 off and on); in
   ED had SBP 90 and has been in the 90's to 100's since.  Has advanced
   HIV but no recent CD4 count (none since prior to HAART) so therefore
   may be at high risk for infection.  Also with indwelling line x unclear
   time period.
   - Blood and urine cultures pending.
   - Resent sputum culture, though no evidence of infiltrate on CXR
   (unlikely to treat based on likely colonization).
   - Vanco and zosyn for GNR coverage for now while awaiting cultures.
   - 2 c.diffs negative in last ~week; follow up third to r/o.
   - Further workup for sepsis can be tailored based on CD4 count
   (pending).
   - Consider workup/treatment coverage for PCP, [**Name10 (NameIs) **] nothing on CXR and
   oxygenation good (and has been on ppx).
   - LP likely low yield, will reconsider if w/u negative
   - If appearing septic; goal direceted therapy with fluid boluses,
   pressors to keep MAP >65, Aline placement, [**Last Name (un) 45**] stim.
   - Keep PICC for now, will readdress following cx results; keep femoral
   line for now but if CVL needed for few days can change to IJ/SC.
   - Consider non-infectious causes of hypotension (ROMI,
   bleed/hypovolemia).
   - Will give low dose beta block for now, increase as BP tolerates back
   to home dose.
   # Bacteremia.  Last positive culture several weeks ago; was on vanco in
   past but course appears completed.  Has L PICC, unclear how old.
   - f/u cultures as above
   - Coverage with vanco.
   - HD monitoring as above.
   - Will keep lines in pending cx results, given chronic course of
   current illness.
   # Positive sputum cultures. No clear evidence of pneumonia on CXR, but
   with significant immunosuppresion.
   - Will continue zosyn for now.
   - can check sputum cultures, but unclear if treatment warranted given
   lack of infiltrate.
   - hold colistin as not available in inhaled form
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   - Temp to 101.6 as above
   - Cx sputum, blood, stool, urine
   - H/o multiple pulmonary infections with multiple resistance, no other
   clear source
   - Continue vancomycin
   - Acetaminophen as needed for fever
   - discussion with mother regarding goals of care
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - Pt s/p trach, copious secretion, and baseline colonization.
   - CXR am of [**8-8**]
 TACHYCARDIA, OTHER
   Sinus.  Likely long standing (though unclear etiology) given [**Name (NI) 169**] dosing
   of 400 mg metoprolol daily.
   - give low dose BB for now, being careful to avoid exacerbating
   hypotension.
   - received 3+ Liters NS boluses, with good response in BP, but HR
   continues to be 100-120
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Last CD4 count 17 was prior to HAART; now on HAART x 4 months.
   - Recheck CD4
   - Continue HAART.
   - Continue atovaquone for prophylaxis.
   - Mefloquine
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive multifocal leukoencephalopathy
   Very poor mental status at baseline, does not appear changed per
   [**Hospital1 630**] reports.  Progressive neurologic impairment as expected.
   - Consider head CT/LP for workup of fever as above, though does not
   appear that mental status worsening- will hold off for now.
   - Goals of care discussion with mother today
 ANEMIA, CHRONIC
   Macrocytic likely [**2-2**] HAART.  No change in last week.   Pt had Hct drop
   to 22.5 yesterday from 28.5 on admission.  Pt transfused 1 unit packed
   RBCs, Hct up to 24.8.
   -          Guiac stools
   -          Repeat hct 1500
   -          Further w/u following results
   # History of EtOH abuse.  Now at skilled nursing, no concern for
   withdrawal issues.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2137-8-7**] 01:55 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-8-6**] 09:36 PM
   PICC Line - [**2137-8-6**] 09:38 PM
   Comments: Will leave PICC in place overnight, pending cx results.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Mother is contact,  [**Name (NI) **] ([**Telephone/Fax (1) 3978**]
   Code status: Full code per available notes, confirm with HCP in meeting
   today
   Disposition:ICU for now

2137-08-09 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Code status changed to DNI/DNR
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2137-8-8**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-8**] 11:55 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-9**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-9**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 106 (89 - 109) bpm
   BP: 100/53(71) {86/45(55) - 109/66(74)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  3,005 mL
                                                                    606 mL
   PO:
             TF:
                                                                    935 mL
                                                                    284 mL
   IVF:
                                                                  1,331 mL
                                                                    192 mL
   Blood products:
   Total out:
                                                                  2,765 mL
                                                                    960 mL
   Urine:
                                                                  2,765 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    240 mL
                                                                   -354 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   200 K/uL
   9.1 g/dL
   114 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   10 mg/dL
   102 mEq/L
   136 mEq/L
   25.6 %
   2.6 K/uL
        [image002.jpg]
                             [**2137-8-7**]  01:30 AM
                             [**2137-8-7**]  09:30 AM
                             [**2137-8-7**]  07:30 PM
                             [**2137-8-8**]  03:00 AM
                             [**2137-8-8**]  03:41 PM
                             [**2137-8-9**]  03:36 AM
   WBC
   4.2
   4.2
   2.5
   2.6
   Hct
   25.5
   24.9
   22.5
   24.8
   26.0
   25.6
   Plt
   [**Telephone/Fax (3) 4054**]00
   Cr
   0.5
   0.6
   0.6
   TropT
   <0.01
   Glucose
   106
   109
   114
   Other labs: PT / PTT / INR:14.3/28.6/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:35/32, Alk Phos / T Bili:78/0.4,
   Amylase / Lipase:24/22, Albumin:2.7 g/dL, LDH:233 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   36 M with end stage HIV/AIDS, known PML, with trach in [**Hospital1 169**]; now admit
   with hypotension and positive blood and sputum cultures.
 HYPOTENSION (NOT SHOCK)
   Per [**Hospital1 630**] his baseline bp appears to be mid 90s, had one BP of 84/52
   on [**8-2**] but [**Name8 (MD) **] RN supervisor appears to have been in the 90s since.
   Believes sent in more for low grade temps (up to 100.8 off and on); in
   ED had SBP 90 and has been in the 90's to 100's since.  Has advanced
   HIV but no recent CD4 count (none since prior to HAART) so therefore
   may be at high risk for infection.  Also with indwelling line x unclear
   time period.
   - Blood and urine cultures pending.
   - Resent sputum culture, though no evidence of infiltrate on CXR
   (unlikely to treat based on likely colonization).
   - Vanco and zosyn for GNR coverage for now while awaiting cultures.
   - 2 c.diffs negative in last ~week; follow up third to r/o.
   - Further workup for sepsis can be tailored based on CD4 count
   (pending).
   - Consider workup/treatment coverage for PCP, [**Name10 (NameIs) **] nothing on CXR and
   oxygenation good (and has been on ppx).
   - LP likely low yield, will reconsider if w/u negative
   - If appearing septic; goal direceted therapy with fluid boluses,
   pressors to keep MAP >65, Aline placement, [**Last Name (un) 45**] stim.
   - Keep PICC for now, will readdress following cx results; keep femoral
   line for now but if CVL needed for few days can change to IJ/SC.
   - Consider non-infectious causes of hypotension (ROMI,
   bleed/hypovolemia).
   - Will give low dose beta block for now, increase as BP tolerates back
   to home dose.
   # Bacteremia.  Last positive culture several weeks ago; was on vanco in
   past but course appears completed.  Has L PICC, unclear how old.
   - f/u cultures as above
   - Coverage with vanco.
   - HD monitoring as above.
   - Will keep lines in pending cx results, given chronic course of
   current illness.
   # Positive sputum cultures. No clear evidence of pneumonia on CXR, but
   with significant immunosuppresion.
   - Will continue zosyn for now.
   - can check sputum cultures, but unclear if treatment warranted given
   lack of infiltrate.
   - hold colistin as not available in inhaled form
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   - Temp to 101.6 as above
   - Cx sputum, blood, stool, urine
   - H/o multiple pulmonary infections with multiple resistance, no other
   clear source
   - Continue vancomycin
   - Acetaminophen as needed for fever
   - discussion with mother regarding goals of care
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - Pt s/p trach, copious secretion, and baseline colonization.
   - CXR am of [**8-8**]
 TACHYCARDIA, OTHER
   Sinus.  Likely long standing (though unclear etiology) given [**Name (NI) 169**] dosing
   of 400 mg metoprolol daily.
   - give low dose BB for now, being careful to avoid exacerbating
   hypotension.
   - received 3+ Liters NS boluses, with good response in BP, but HR
   continues to be 100-120
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Last CD4 count 17 was prior to HAART; now on HAART x 4 months.
   - Recheck CD4
   - Continue HAART.
   - Continue atovaquone for prophylaxis.
   - Mefloquine
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive multifocal leukoencephalopathy
   Very poor mental status at baseline, does not appear changed per
   [**Hospital1 630**] reports.  Progressive neurologic impairment as expected.
   - Consider head CT/LP for workup of fever as above, though does not
   appear that mental status worsening- will hold off for now.
   - Goals of care discussion with mother today
 ANEMIA, CHRONIC
   Macrocytic likely [**2-2**] HAART.  No change in last week.   Pt had Hct drop
   to 22.5 yesterday from 28.5 on admission.  Pt transfused 1 unit packed
   RBCs, Hct up to 24.8.
   -          Guiac stools
   -          Repeat hct 1500
   -          Further w/u following results
   # History of EtOH abuse.  Now at skilled nursing, no concern for
   withdrawal issues.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-8**] 11:52 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2137-8-6**] 09:36 PM
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2137-08-09 20:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-9**] 04:00 PM
   Vancomycin - [**2137-8-9**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-8-9**] 02:00 PM
   Famotidine (Pepcid) - [**2137-8-9**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-9**] 08:50 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.5
   HR: 101 (89 - 114) bpm
   BP: 99/61(63) {86/35(49) - 111/67(77)} mmHg
   RR: 14 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  3,005 mL
                                                                  2,420 mL
   PO:
             TF:
                                                                    935 mL
                                                                    833 mL
   IVF:
                                                                  1,331 mL
                                                                    958 mL
   Blood products:
   Total out:
                                                                  2,765 mL
                                                                  1,915 mL
   Urine:
                                                                  2,765 mL
                                                                  1,915 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    240 mL
                                                                    505 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   Gen: unresponsive, appears in NAD
   HEENT: trach in place, copious secretions, eyes open
   Chest: ronchorous BS bilaterally
   CV: RRR
   Abd: soft, ND
   Ext: bl UE mildly edematous, trace edema bl LE
   Skin: Warm and dry
   Neuro/Psych:  Unresponsive to verbal stimuli.
   Labs / Radiology
   200 K/uL
   9.1 g/dL
   114 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.6 mEq/L
   10 mg/dL
   102 mEq/L
   136 mEq/L
   25.9 %
   2.6 K/uL
        [image002.jpg]
                             [**2137-8-7**]  01:30 AM
                             [**2137-8-7**]  09:30 AM
                             [**2137-8-7**]  07:30 PM
                             [**2137-8-8**]  03:00 AM
                             [**2137-8-8**]  03:41 PM
                             [**2137-8-9**]  03:36 AM
                             [**2137-8-9**]  02:20 PM
   WBC
   4.2
   4.2
   2.5
   2.6
   Hct
   25.5
   24.9
   22.5
   24.8
   26.0
   25.6
   25.9
   Plt
   [**Telephone/Fax (3) 4054**]00
   Cr
   0.5
   0.6
   0.6
   TropT
   <0.01
   Glucose
   106
   109
   114
   Other labs: PT / PTT / INR:14.3/28.6/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:35/32, Alk Phos / T Bili:78/0.4,
   Amylase / Lipase:24/22, Albumin:2.7 g/dL, LDH:233 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Micro:
   [**8-7**] C. diff negative
   [**8-7**] blood cx x 2 pending
   [**8-7**] sputum- no microorganisms
   8/5 blood cxx2 pending
   [**8-6**] urine cx- no growth
   Imaging: CXR [**8-9**] lungs grossly clear, possible small L pleural
   effusion, heart size at upper end of normal range.
   Assessment and Plan
   36 M with end stage HIV/AIDS, known PML, with trach in [**Hospital1 169**]; now admit
   with hypotension and positive blood and sputum cultures.
 HYPOTENSION (NOT SHOCK)
   Per [**Hospital1 630**] his baseline bp appears to be mid 90s, had one BP of 84/52
   on [**8-2**] but [**Name8 (MD) **] RN supervisor appears to have been in the 90s since.
   Believes sent in more for low grade temps (up to 100.8 off and on); in
   ED had SBP 90 and has been in the 90's to 100's since.  Has advanced
   HIV but no recent CD4 count (none since prior to HAART) so therefore
   may be at high risk for infection.  Also with indwelling line x unclear
   time period.
   - Afebrile overnight, continue to monitor
   - Blood cultures pending.
   - Sputum showed no growth, though no evidence of infiltrate on CXR
   (unlikely to treat based on likely colonization).
   - Urine showed no growth
   - Vanco and zosyn for GNR coverage for now while awaiting cultures.
   - 2 c.diffs negative in last ~week; follow up third to r/o- also
   negative.
   - Further workup for sepsis can be tailored based on CD4 count (53).
   - Consider workup/treatment coverage for PCP, [**Name10 (NameIs) **] nothing on CXR and
   oxygenation good (and has been on ppx).
   - LP likely low yield, will reconsider if w/u negative
   - If appearing septic; goal direceted therapy with fluid boluses,
   pressors to keep MAP >65, Aline placement, [**Last Name (un) 45**] stim.
   - Keep PICC for now, will readdress following cx results; d/c femoral
   line today.
   - Will give low dose beta block for now, increase as BP tolerates back
   to home dose.
   - Follow CXR and clinical signs
   # Bacteremia.  Last positive culture several weeks ago; was on vanco in
   past but course appears completed.  Has L PICC, unclear how old.
   - Afebrile overnight
   - f/u cultures as above
   - Coverage with vanco.
   - HD monitoring as above.
   - Will keep PICC in for now
   # H/o Positive sputum cultures. No clear evidence of pneumonia on CXR,
   but with significant immunosuppresion.
   - Sputum showed no microorganisms
   - Will continue zosyn for now.
   - hold colistin as not available in inhaled form
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   - Temp to 101.6 previously, but afebrile overnight
   - Cx sputum, blood, stool, urine results as above, follow up other cx
   - H/o multiple pulmonary infections with multiple resistance, no other
   clear source
   - Continue vancomycin
   - Acetaminophen as needed for fever
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - Pt s/p trach, copious secretion, and baseline colonization.
   - follow CXR
 TACHYCARDIA, OTHER
   Sinus.  Likely long standing (though unclear etiology) given [**Name (NI) 169**] dosing
   of 400 mg metoprolol daily.
   - continue 50 mg Metoprolol TID
   - Monitor for hypotension
   - HR continues to be 90-115
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Last CD4 count 17 was prior to HAART; now on HAART x 4 months.
   - CD4 on recheck
   - Continue HAART.
   - Continue atovaquone for prophylaxis.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive multifocal leukoencephalopathy
   Very poor mental status at baseline, does not appear changed per
   [**Hospital1 630**] reports.  Progressive neurologic impairment as expected.
   - Consider head CT/LP for workup of fever as above, though does not
   appear that mental status worsening- will hold off for now.
   - Goals of care discussion with mother yesterday- would not want him
   intubated, would not want chest compressions- code status changed to
   DNR/DNI.
 ANEMIA, CHRONIC
   Macrocytic likely [**2-2**] HAART.  No change in last week.   Pt had Hct drop
   to 22.5 yesterday from 28.5 on admission.  Pt transfused 1 unit packed
   RBCs, Hct up to 24.8.
   -          Guiac stools
   -          Hct 24-25
   -          Continue to monitor Hct
   # History of EtOH abuse.  Now at skilled nursing, no concern for
   withdrawal issues.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-8**] 11:52 PM 40 mL/hour
   Glycemic Control:  sugars controlled, continue tube feeds
   Lines:
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:  In ICU for now, will talk with case management to try to
   find a new facility

2137-08-10 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2137-8-9**] 01:43 PM (Femoral Line)
   Discussed with case management yesterday, will plan on getting bed in
   different facility, may be [**Hospital1 82**]
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2137-8-9**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-9**] 11:49 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-9**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-10**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-10**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 96 (89 - 114) bpm
   BP: 92/62(69) {86/35(49) - 111/67(77)} mmHg
   RR: 20 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  3,030 mL
                                                                    528 mL
   PO:
             TF:
                                                                    960 mL
                                                                    279 mL
   IVF:
                                                                  1,289 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  3,555 mL
                                                                  1,265 mL
   Urine:
                                                                  3,555 mL
                                                                  1,265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -525 mL
                                                                   -737 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   193 K/uL
   9.2 g/dL
   113 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.6 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   25.5 %
   3.1 K/uL
        [image002.jpg]
                             [**2137-8-7**]  01:30 AM
                             [**2137-8-7**]  09:30 AM
                             [**2137-8-7**]  07:30 PM
                             [**2137-8-8**]  03:00 AM
                             [**2137-8-8**]  03:41 PM
                             [**2137-8-9**]  03:36 AM
                             [**2137-8-9**]  02:20 PM
                             [**2137-8-10**]  03:15 AM
   WBC
   4.2
   4.2
   2.5
   2.6
   3.1
   Hct
   25.5
   24.9
   22.5
   24.8
   26.0
   25.6
   25.9
   25.5
   Plt
   [**Telephone/Fax (3) 4054**]00
   193
   Cr
   0.5
   0.6
   0.6
   0.5
   TropT
   <0.01
   Glucose
   106
   109
   114
   113
   Other labs: PT / PTT / INR:13.8/29.6/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:35/32, Alk Phos / T Bili:78/0.4,
   Amylase / Lipase:24/22, Albumin:2.7 g/dL, LDH:233 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   36 M with end stage HIV/AIDS, known PML, with trach in [**Hospital1 169**]; now admit
   with hypotension and positive blood and sputum cultures.
 HYPOTENSION (NOT SHOCK)
   Per [**Hospital1 630**] his baseline bp appears to be mid 90s, had one BP of 84/52
   on [**8-2**] but [**Name8 (MD) **] RN supervisor appears to have been in the 90s since.
   Believes sent in more for low grade temps (up to 100.8 off and on); in
   ED had SBP 90 and has been in the 90's to 100's since.  Has advanced
   HIV but no recent CD4 count (none since prior to HAART) so therefore
   may be at high risk for infection.  Also with indwelling line x unclear
   time period.
   - Afebrile overnight, continue to monitor
   - Blood cultures pending.
   - Sputum showed no growth, though no evidence of infiltrate on CXR
   (unlikely to treat based on likely colonization).
   - Urine showed no growth
   - Vanco and zosyn for GNR coverage for now while awaiting cultures.
   - 2 c.diffs negative in last ~week; follow up third to r/o- also
   negative.
   - Further workup for sepsis can be tailored based on CD4 count (53).
   - Consider workup/treatment coverage for PCP, [**Name10 (NameIs) **] nothing on CXR and
   oxygenation good (and has been on ppx).
   - LP likely low yield, will reconsider if w/u negative
   - If appearing septic; goal direceted therapy with fluid boluses,
   pressors to keep MAP >65, Aline placement, [**Last Name (un) 45**] stim.
   - Keep PICC for now, will readdress following cx results; d/c femoral
   line today.
   - Will give low dose beta block for now, increase as BP tolerates back
   to home dose.
   - Follow CXR and clinical signs
   # Bacteremia.  Last positive culture several weeks ago; was on vanco in
   past but course appears completed.  Has L PICC, unclear how old.
   - Afebrile overnight
   - f/u cultures as above
   - Coverage with vanco.
   - HD monitoring as above.
   - Will keep PICC in for now
   # H/o Positive sputum cultures. No clear evidence of pneumonia on CXR,
   but with significant immunosuppresion.
   - Sputum showed no microorganisms
   - Will continue zosyn for now.
   - hold colistin as not available in inhaled form
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   - Temp to 101.6 previously, but afebrile overnight
   - Cx sputum, blood, stool, urine results as above, follow up other cx
   - H/o multiple pulmonary infections with multiple resistance, no other
   clear source
   - Continue vancomycin
   - Acetaminophen as needed for fever
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - Pt s/p trach, copious secretion, and baseline colonization.
   - follow CXR
 TACHYCARDIA, OTHER
   Sinus.  Likely long standing (though unclear etiology) given [**Name (NI) 169**] dosing
   of 400 mg metoprolol daily.
   - continue 50 mg Metoprolol TID
   - Monitor for hypotension
   - HR continues to be 90-115
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Last CD4 count 17 was prior to HAART; now on HAART x 4 months.
   - CD4 on recheck
   - Continue HAART.
   - Continue atovaquone for prophylaxis.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive multifocal leukoencephalopathy
   Very poor mental status at baseline, does not appear changed per
   [**Hospital1 630**] reports.  Progressive neurologic impairment as expected.
   - Consider head CT/LP for workup of fever as above, though does not
   appear that mental status worsening- will hold off for now.
   - Goals of care discussion with mother yesterday- would not want him
   intubated, would not want chest compressions- code status changed to
   DNR/DNI.
 ANEMIA, CHRONIC
   Macrocytic likely [**2-2**] HAART.  No change in last week.   Pt had Hct drop
   to 22.5 yesterday from 28.5 on admission.  Pt transfused 1 unit packed
   RBCs, Hct up to 24.8.
   -          Guiac stools
   -          Hct 24-25
   -          Continue to monitor Hct
   # History of EtOH abuse.  Now at skilled nursing, no concern for
   withdrawal issues.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-9**] 11:50 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2137-08-10 10:33:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Mild and persistent hypotension.
 MULTI LUMEN - STOP [**2137-8-9**] 01:43 PM
   History obtained from Medical records
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2137-8-9**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-10**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-9**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-10**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-10**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 90 (90 - 111) bpm
   BP: 91/53(61) {86/35(49) - 111/67(77)} mmHg
   RR: 21 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  3,030 mL
                                                                    918 mL
   PO:
             TF:
                                                                    960 mL
                                                                    415 mL
   IVF:
                                                                  1,289 mL
                                                                    254 mL
   Blood products:
   Total out:
                                                                  3,555 mL
                                                                  1,505 mL
   Urine:
                                                                  3,555 mL
                                                                  1,505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -525 mL
                                                                   -587 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   193 K/uL
   113 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.6 mEq/L
   14 mg/dL
   101 mEq/L
   136 mEq/L
   25.5 %
   3.1 K/uL
        [image002.jpg]
                             [**2137-8-7**]  01:30 AM
                             [**2137-8-7**]  09:30 AM
                             [**2137-8-7**]  07:30 PM
                             [**2137-8-8**]  03:00 AM
                             [**2137-8-8**]  03:41 PM
                             [**2137-8-9**]  03:36 AM
                             [**2137-8-9**]  02:20 PM
                             [**2137-8-10**]  03:15 AM
   WBC
   4.2
   4.2
   2.5
   2.6
   3.1
   Hct
   25.5
   24.9
   22.5
   24.8
   26.0
   25.6
   25.9
   25.5
   Plt
   [**Telephone/Fax (3) 4054**]00
   193
   Cr
   0.5
   0.6
   0.6
   0.5
   TropT
   <0.01
   Glucose
   106
   109
   114
   113
   Other labs: PT / PTT / INR:13.8/29.6/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:35/32, Alk Phos / T Bili:78/0.4,
   Amylase / Lipase:24/22, Albumin:2.7 g/dL, LDH:233 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR
Trach in place
no significant change
   Assessment and Plan
   36 yo male with history of HIV and now undergoing Rx for admission with
   hypotension.  He has had reasonable response to empiric abx Rx at this
   time with goal for 5 day course.
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -Vanco/Zosyn
   -No new culture results
   -Continue to 5 day course.
   HYPOTENSION
Has continued baseline blood pressures and does not appear
   to have acute worsening over past 24 hours which argues against
   persistent infection and would consider fixed course.
   HIV-Continue current medications
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 TACHYCARDIA, OTHER
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-9**] 11:50 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Will need evaluation for placement and
   ongoing care
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2137-08-11 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2137-8-10**] 12:53 PM
   - no events, to rehab monday
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-10**] 08:00 AM
   Vancomycin - [**2137-8-10**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-8-10**] 11:20 PM
   Famotidine (Pepcid) - [**2137-8-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-11**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.7
C (96.2
   HR: 103 (90 - 116) bpm
   BP: 94/53(62) {79/46(54) - 106/66(74)} mmHg
   RR: 20 (13 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  2,403 mL
                                                                    379 mL
   PO:
             TF:
                                                                  1,483 mL
                                                                    263 mL
   IVF:
                                                                    590 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    390 mL
   Urine:
                                                                  2,350 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     53 mL
                                                                    -10 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Gen: lying in NAD
   HEENT: moist mucus membranes
   Lungs: coarse breath sounds bilaterally
   CV: RRR, no m/r/g
   Abd: G tube in place, ND/NT +BS
   Ext: no edema, warm to touch
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: No longer responding to pain, not alert.
   Labs / Radiology
   234 K/uL
   9.3 g/dL
   113 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.8 mEq/L
   17 mg/dL
   100 mEq/L
   135 mEq/L
   27.1 %
   3.4 K/uL
        [image002.jpg]
   Micro:
   8/6 [**8-10**] stool C diff neg
   [**8-6**] [**8-7**] Blood pending
   [**8-7**] sputtum GS no organism, cult sparse oropharyngeal growth, sparse
   growth pseudomonas aerginosa
   Rads:
   [**8-10**] CXR trach and PICC in place, no evidence of PNA or PCP.
                             [**2137-8-7**]  01:30 AM
                             [**2137-8-7**]  09:30 AM
                             [**2137-8-7**]  07:30 PM
                             [**2137-8-8**]  03:00 AM
                             [**2137-8-8**]  03:41 PM
                             [**2137-8-9**]  03:36 AM
                             [**2137-8-9**]  02:20 PM
                             [**2137-8-10**]  03:15 AM
                             [**2137-8-11**]  04:36 AM
   WBC
   4.2
   4.2
   2.5
   2.6
   3.1
   3.4
   Hct
   25.5
   24.9
   22.5
   24.8
   26.0
   25.6
   25.9
   25.5
   27.1
   Plt
   [**Telephone/Fax (3) 4054**]00
   193
   234
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   TropT
   <0.01
   Glucose
   106
   109
   114
   113
   113
   Other labs: PT / PTT / INR:13.6/28.1/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:35/32, Alk Phos / T Bili:78/0.4,
   Amylase / Lipase:24/22, Albumin:2.7 g/dL, LDH:233 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   36 M with end stage HIV/AIDS, known PML, with trach in [**Hospital1 169**]; now admit
   with hypotension and positive blood and sputum cultures.
 HYPOTENSION (NOT SHOCK)
   Per [**Hospital1 630**] his baseline bp appears to be mid 90s, had one BP of 84/52
   on [**8-2**] but [**Name8 (MD) **] RN supervisor appears to have been in the 90s since.
   Believes sent in more for low grade temps (up to 100.8 off and on); in
   ED had SBP 90 and has been in the 90's to 100's since.  Has advanced
   HIV but no recent CD4 count (none since prior to HAART) so therefore
   may be at high risk for infection.  Also with indwelling line x unclear
   time period.
   - Afebrile overnight, continue to monitor
   - Blood cultures pending.
   - Sputum showed sparse growth of pseduomonas, though no evidence of
   infiltrate on CXR
   - started Ceftazidime 2g IV q8h for pseudomonas
   - Urine showed no growth
   - 2 c.diffs negative in last ~week; follow up third to r/o- also
   negative.
   - Further workup for sepsis can be tailored based on CD4 count (53).
   - Consider workup/treatment coverage for PCP, [**Name10 (NameIs) **] nothing on CXR and
   oxygenation good (and has been on ppx).
   - Keep PICC for now, will readdress following cx results
   - Per outside hospital records, had been on 25 Metoprolol [**Hospital1 **]; the 100
   mg QID listed by [**Hospital1 630**] is a large increase.  Titrated down
   Metoprolol  to 37.5 mg TID today.
   - Follow CXR and clinical signs
   # Bacteremia.  Last positive blood culture several weeks ago; was on
   vanco in past but course appears completed.  Has L PICC, unclear how
   old.
   - Ceftaz for pseudomonas in sputum
   - Afebrile overnight
   - f/u cultures as above
   -          Will keep PICC in for now
   - Added nystatin crm for perirectal fungal rash
   # H/o Positive sputum cultures. No clear evidence of pneumonia on CXR,
   but with significant immunosuppresion.
   - Sputum showed no microorganisms
   -          hold colistin as not available in inhaled form
   -          New sputum cult  postivive for pseudomonas, started  Ceftaz
   -          Increased pulmonary secretions as per nursing. On
   scopolamine patch already, added Amitriptyline to decrease secretions
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   - Temp to 101.6 previously, but afebrile for days
   - Cx sputum, blood, stool, urine results as above, follow up other cx
   - H/o multiple pulmonary infections with multiple resistance, no other
   clear source
   - Acetaminophen as needed for fever
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - Pt s/p trach, copious secretion, and baseline colonization.
   - added amitripyline to decrease secretions, will titrate up to effect
   reached.
   - CXR has been stable, no need to monitor daily
 TACHYCARDIA, OTHER
   Sinus.  Likely long standing (though unclear etiology) given [**Name (NI) 169**] dosing
   of 400 mg metoprolol daily.
   - Decrease to 37.5 mg Metoprolol TID
   - Monitor for hypotension
   - HR continues to be 90-115
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Last CD4 count 17 was prior to HAART; now on HAART x 4 months.
   - CD4 on recheck
   - Continue HAART.
   - Continue atovaquone for prophylaxis.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive multifocal leukoencephalopathy
   - not responsive to  pain today
   Very poor mental status at baseline, does not appear changed per
   [**Hospital1 630**] reports.  Progressive neurologic impairment as expected.
   - Consider head CT/LP for workup of fever as above, though does not
   appear that mental status worsening- will hold off for now.
   - Goals of care discussion with mother yesterday- would not want him
   intubated, would not want chest compressions- code status changed to
   DNR/DNI.

 ANEMIA, CHRONIC
   Macrocytic likely [**2-2**] HAART.  No change in last week.   Pt had Hct drop
   to 22.5 yesterday from 28.5 on admission.  Pt transfused 1 unit packed
   RBCs, Hct up to 24.8.
   -          Guiac stools
   -          Hct 24-25
   -                Continue to monitor Hct
   -
   # History of EtOH abuse.  Now at skilled nursing, no concern for
   withdrawal issues.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-9**] 11:50 PM 40 mL/hour, added banana flakes
   to thicken stool
   Glycemic Control:  BG WNL
   Lines:
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: In ICU until placed in rehab Monday

2137-08-11 10:37:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   NO events overnight
 STOOL CULTURE - At [**2137-8-10**] 12:53 PM
   History obtained from Medical records
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-10**] 08:00 AM
   Vancomycin - [**2137-8-10**] 08:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-8-10**] 11:20 PM
   Famotidine (Pepcid) - [**2137-8-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-11**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 91 (91 - 116) bpm
   BP: 93/56(64) {79/49(59) - 106/71(77)} mmHg
   RR: 22 (11 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  2,403 mL
                                                                    740 mL
   PO:
             TF:
                                                                  1,483 mL
                                                                    416 mL
   IVF:
                                                                    590 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    590 mL
   Urine:
                                                                  2,350 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     53 mL
                                                                    150 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   234 K/uL
   113 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.8 mEq/L
   17 mg/dL
   100 mEq/L
   135 mEq/L
   27.1 %
   3.4 K/uL
        [image002.jpg]
                             [**2137-8-7**]  01:30 AM
                             [**2137-8-7**]  09:30 AM
                             [**2137-8-7**]  07:30 PM
                             [**2137-8-8**]  03:00 AM
                             [**2137-8-8**]  03:41 PM
                             [**2137-8-9**]  03:36 AM
                             [**2137-8-9**]  02:20 PM
                             [**2137-8-10**]  03:15 AM
                             [**2137-8-11**]  04:36 AM
   WBC
   4.2
   4.2
   2.5
   2.6
   3.1
   3.4
   Hct
   25.5
   24.9
   22.5
   24.8
   26.0
   25.6
   25.9
   25.5
   27.1
   Plt
   [**Telephone/Fax (3) 4054**]00
   193
   234
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   TropT
   <0.01
   Glucose
   106
   109
   114
   113
   113
   Other labs: PT / PTT / INR:13.6/28.1/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:35/32, Alk Phos / T Bili:78/0.4,
   Amylase / Lipase:24/22, Albumin:2.7 g/dL, LDH:233 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR--NO new studies for [**2137-8-11**]
   Microbiology: Sputum--Patient with return of Pseudomonas on culture
   [**2137-8-10**].
   Assessment and Plan
   36 yo male admit with hypotension and now with reasonable improvement
   in BP with IVF given.  He has had response quite rapidly in the setting
   of antibiotics but with such rapid return to baseline and absence of
   culture results have discontinued Vanco/Zosyn with continued good
   hemodynamic response.  The one concerning finding is the evolution of
   pseudomonas on sputum sample returning yesterday.  In addition
patient
   has evolution and persistence of increased pulmonary secretions which
   this morning are associated with intermittent desaturations.  This
   would argue for ongoing signficiant bacterial infection and would
   presume that it is at least the pseudomonas found in his sputum.
   Hypotension-
   -Maintained baseline blood pressure at this time.
   HIV-
   -Continue with HAART therapy as prescribed
   Pneumonia-Ongoing sputum production, Pseudomonas seen
   -Will Rx with Cefepime
   -Follow up cultures
   -Monitor blood cultures
   -Continue pulmonary toilet
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 TACHYCARDIA, OTHER
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-10**] 11:50 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU
Hope for rehab discharge is pulmonary status remains
   stabilized.
   Total time spent: 45

2137-08-12 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - sputum grew Pseudomonas, started Ceftazidime.
   - Tachycardic overnight, gave additional 12.5mg lopressor with little
   effect, BP stable
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-10**] 08:00 AM
   Vancomycin - [**2137-8-10**] 08:30 AM
   Ceftazidime - [**2137-8-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-11**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-12**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 101 (91 - 114) bpm
   BP: 102/76(81) {91/56(64) - 107/82(87)} mmHg
   RR: 17 (11 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.2 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  2,383 mL
                                                                    408 mL
   PO:
             TF:
                                                                    962 mL
                                                                    263 mL
   IVF:
                                                                  1,011 mL
                                                                    145 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    225 mL
   Urine:
                                                                  1,030 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,353 mL
                                                                    183 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Gen: supine in bed, eyes partially closed, unresponsive
   HEENT: Pupils reactive, dysconjugate gaze, mucous membranes moist,
   trach collar in place
   Chest: Ronchorous BS bl
   CV: RRR, nl S1S2
   Abd: Soft, ND
   Skin: Dry and warm
   Ext: pneumoboots, ulcer boots, trace edema
   Neuro/Psych: unresponsive to voice or touch, pupils as above
   Labs / Radiology
   263 K/uL
   9.8 g/dL
   125 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   22 mg/dL
   99 mEq/L
   135 mEq/L
   28.9 %
   4.3 K/uL
        [image002.jpg]
                             [**2137-8-7**]  01:30 AM
                             [**2137-8-7**]  09:30 AM
                             [**2137-8-7**]  07:30 PM
                             [**2137-8-8**]  03:00 AM
                             [**2137-8-8**]  03:41 PM
                             [**2137-8-9**]  03:36 AM
                             [**2137-8-9**]  02:20 PM
                             [**2137-8-10**]  03:15 AM
                             [**2137-8-11**]  04:36 AM
                             [**2137-8-12**]  03:38 AM
   WBC
   4.2
   4.2
   2.5
   2.6
   3.1
   3.4
   4.3
   Hct
   25.5
   24.9
   22.5
   24.8
   26.0
   25.6
   25.9
   25.5
   27.1
   28.9
   Plt
   [**Telephone/Fax (3) 4054**]00
   193
   234
   263
   Cr
   0.5
   0.6
   0.6
   0.5
   0.5
   0.5
   TropT
   <0.01
   Glucose
   106
   109
   114
   113
   113
   125
   Other labs: PT / PTT / INR:13.6/28.1/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:35/32, Alk Phos / T Bili:78/0.4,
   Amylase / Lipase:24/22, Albumin:2.7 g/dL, LDH:233 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   MICRO:
   Assessment and Plan
   Assessment and Plan
   36 M with end stage HIV/AIDS, known PML, with trach in [**Hospital1 169**]; now admit
   with hypotension and positive blood and sputum cultures.
    # PNEUMONIA:
   -          Sputum culture from [**8-7**] grew out pseudomonas, sensitive to
   Zosyn and [**Name (NI) **]
   -          Pt received 4 days of Vanc/zosyn
   -          Will plan on treating for 14 days total: with 4 days of
   zosyn and started [**Name (NI) **] [**8-11**], will plan on stop date of [**2137-8-20**]
 HYPOTENSION (NOT SHOCK)
   Per [**Hospital1 630**] his baseline bp appears to be mid 90s, had one BP of 84/52
   on [**8-2**] but [**Name8 (MD) **] RN supervisor appears to have been in the 90s since.
   Believes sent in more for low grade temps (up to 100.8 off and on); in
   ED had SBP 90 and has been in the 90's to 100's since.  Has advanced
   HIV but no recent CD4 count (none since prior to HAART) so therefore
   may be at high risk for infection.  Also with indwelling line x unclear
   time period.
   - Afebrile overnight, continue to monitor
   - Blood cultures pending.
   - Sputum showed pseudomonas as above
   - started Ceftazidime 2g IV q8h for pseudomonas
   - Urine showed no growth
   - 2 c.diffs negative in last ~week; follow up third to r/o- also
   negative.
   - Keep PICC for now, will readdress following cx result
   - Per outside hospital records, had been on 25 Metoprolol [**Hospital1 **]; the 100
   mg QID listed by [**Hospital1 630**] is a large increase.  Titrated down
   Metoprolol  to 37.5 mg TID today.
   - Follow CXR and clinical signs
   # Bacteremia.  Last positive blood culture several weeks ago; was on
   vanco in past but course appears completed.  Has L PICC, unclear how
   old.
   - [**Hospital1 **] for pseudomonas in sputum
   - Afebrile overnight
   - f/u cultures as above
   -          Will keep PICC in for now
   - Added nystatin crm for perirectal fungal rash
   # H/o Positive sputum cultures. No clear evidence of pneumonia on CXR,
   but with significant immunosuppresion.
   - Sputum showed no microorganisms
   -          hold colistin as not available in inhaled form
   -          New sputum cult  postivive for pseudomonas, started  [**Hospital1 **]
   -          Increased pulmonary secretions as per nursing. On
   scopolamine patch already, added Amitriptyline to decrease secretions
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   - Temp to 101.6 previously, but afebrile for days
   - Cx sputum, blood, stool, urine results as above, follow up other cx
   - H/o multiple pulmonary infections with multiple resistance, no other
   clear source
   - Acetaminophen as needed for fever
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - Pt s/p trach, copious secretion, and baseline colonization.
   - added amitripyline to decrease secretions, will titrate up to effect
   reached.
   - CXR has been stable, no need to monitor daily
 TACHYCARDIA, OTHER
   Sinus.  Likely long standing (though unclear etiology) given [**Name (NI) 169**] dosing
   of 400 mg metoprolol daily.
   - Decrease to 37.5 mg Metoprolol TID
   - Monitor for hypotension
   - HR continues to be 90-115
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Last CD4 count 17 was prior to HAART; now on HAART x 4 months.
   - CD4 on recheck
   - Continue HAART.
   - Continue atovaquone for prophylaxis.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive multifocal leukoencephalopathy
   - not responsive to  pain today
   Very poor mental status at baseline, does not appear changed per
   [**Hospital1 630**] reports.  Progressive neurologic impairment as expected.
   - Consider head CT/LP for workup of fever as above, though does not
   appear that mental status worsening- will hold off for now.
   - Goals of care discussion with mother yesterday- would not want him
   intubated, would not want chest compressions- code status changed to
   DNR/DNI.

 ANEMIA, CHRONIC
   Macrocytic likely [**2-2**] HAART.  No change in last week.   Pt had Hct drop
   to 22.5 yesterday from 28.5 on admission.  Pt transfused 1 unit packed
   RBCs, Hct up to 24.8.
   -          Guiac stools
   -          Hct 24-25
   -                Continue to monitor Hct
   -
   # History of EtOH abuse.  Now at skilled nursing, no concern for
   withdrawal issues.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-9**] 11:50 PM 40 mL/hour, added banana flakes
   to thicken stool
   Glycemic Control:  BG WNL
   Lines:
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-11**] 11:47 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT:  SQ Heparin
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: D/c to Rehab today pending approval

2137-08-13 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Febrile to 101 when ready to go to rehab, CBC, LFTs, CXR, cx sent
   Discharge deferred
 PAN CULTURE - At [**2137-8-12**] 06:27 PM
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-10**] 08:00 AM
   Vancomycin - [**2137-8-10**] 08:30 AM
   Ceftazidime - [**2137-8-12**] 11:44 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-12**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2137-8-13**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-13**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38
C (100.4
   HR: 110 (95 - 121) bpm
   BP: 99/66(73) {87/55(62) - 105/71(77)} mmHg
   RR: 14 (8 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.2 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  2,223 mL
                                                                    308 mL
   PO:
             TF:
                                                                    962 mL
                                                                    247 mL
   IVF:
                                                                    621 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                    265 mL
   Urine:
                                                                  1,295 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    928 mL
                                                                     43 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   239 K/uL
   9.6 g/dL
   116 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.1 mEq/L
   23 mg/dL
   101 mEq/L
   138 mEq/L
   27.3 %
   4.8 K/uL
        [image002.jpg]
                             [**2137-8-7**]  07:30 PM
                             [**2137-8-8**]  03:00 AM
                             [**2137-8-8**]  03:41 PM
                             [**2137-8-9**]  03:36 AM
                             [**2137-8-9**]  02:20 PM
                             [**2137-8-10**]  03:15 AM
                             [**2137-8-11**]  04:36 AM
                             [**2137-8-12**]  03:38 AM
                             [**2137-8-12**]  05:55 PM
                             [**2137-8-13**]  03:15 AM
   WBC
   2.5
   2.6
   3.1
   3.4
   4.3
   5.9
   4.8
   Hct
   22.5
   24.8
   26.0
   25.6
   25.9
   25.5
   27.1
   28.9
   28.8
   27.3
   Plt
   187
   200
   193
   [**Telephone/Fax (3) 4190**]
   239
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   Glucose
   109
   114
   113
   113
   125
   116
   Other labs: PT / PTT / INR:13.6/28.1/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:46/44, Alk Phos / T Bili:86/0.3,
   Amylase / Lipase:23/19, Differential-Neuts:50.0 %, Band:0.0 %,
   Lymph:36.0 %, Mono:5.0 %, Eos:5.0 %, Albumin:2.7 g/dL, LDH:233 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   36 M with end stage HIV/AIDS, known PML, with trach in [**Hospital1 169**]; now admit
   with hypotension and positive blood and sputum cultures.
    # PNEUMONIA:
   -          Sputum culture from [**8-7**] grew out pseudomonas, sensitive to
   Zosyn and [**Name (NI) **]
   -          Pt received 4 days of Vanc/zosyn
   -          Will plan on treating for 14 days total: with 4 days of
   zosyn and started [**Name (NI) **] [**8-11**], will plan on stop date of [**2137-8-20**]
 HYPOTENSION (NOT SHOCK)
   Per [**Hospital1 630**] his baseline bp appears to be mid 90s, had one BP of 84/52
   on [**8-2**] but [**Name8 (MD) **] RN supervisor appears to have been in the 90s since.
   Believes sent in more for low grade temps (up to 100.8 off and on); in
   ED had SBP 90 and has been in the 90's to 100's since.  Has advanced
   HIV but no recent CD4 count (none since prior to HAART) so therefore
   may be at high risk for infection.  Also with indwelling line x unclear
   time period.
   - Afebrile overnight, continue to monitor
   - Blood cultures pending.
   - Sputum showed pseudomonas as above
   - started Ceftazidime 2g IV q8h for pseudomonas
   - Urine showed no growth
   - 2 c.diffs negative in last ~week; follow up third to r/o- also
   negative.
   - Keep PICC for now, will readdress following cx result
   - Per outside hospital records, had been on 25 Metoprolol [**Hospital1 **]; the 100
   mg QID listed by [**Hospital1 630**] is a large increase.  Titrated down
   Metoprolol  to 37.5 mg TID today.
   - Follow CXR and clinical signs
   # Bacteremia.  Last positive blood culture several weeks ago; was on
   vanco in past but course appears completed.  Has L PICC, unclear how
   old.
   - [**Hospital1 **] for pseudomonas in sputum
   - Afebrile overnight
   - f/u cultures as above
   -          Will keep PICC in for now
   - Added nystatin crm for perirectal fungal rash
   # H/o Positive sputum cultures. No clear evidence of pneumonia on CXR,
   but with significant immunosuppresion.
   - Sputum showed no microorganisms
   -          hold colistin as not available in inhaled form
   -          New sputum cult  postivive for pseudomonas, started  [**Hospital1 **]
   -          Increased pulmonary secretions as per nursing. On
   scopolamine patch already, added Amitriptyline to decrease secretions
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   - Temp to 101.6 previously, but afebrile for days
   - Cx sputum, blood, stool, urine results as above, follow up other cx
   - H/o multiple pulmonary infections with multiple resistance, no other
   clear source
   - Acetaminophen as needed for fever
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - Pt s/p trach, copious secretion, and baseline colonization.
   - added amitripyline to decrease secretions, will titrate up to effect
   reached.
   - CXR has been stable, no need to monitor daily
 TACHYCARDIA, OTHER
   Sinus.  Likely long standing (though unclear etiology) given [**Name (NI) 169**] dosing
   of 400 mg metoprolol daily.
   - Decrease to 37.5 mg Metoprolol TID
   - Monitor for hypotension
   - HR continues to be 90-115
 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Last CD4 count 17 was prior to HAART; now on HAART x 4 months.
   - CD4 on recheck
   - Continue HAART.
   - Continue atovaquone for prophylaxis.
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive multifocal leukoencephalopathy
   - not responsive to  pain today
   Very poor mental status at baseline, does not appear changed per
   [**Hospital1 630**] reports.  Progressive neurologic impairment as expected.
   - Consider head CT/LP for workup of fever as above, though does not
   appear that mental status worsening- will hold off for now.
   - Goals of care discussion with mother yesterday- would not want him
   intubated, would not want chest compressions- code status changed to
   DNR/DNI.

 ANEMIA, CHRONIC
   Macrocytic likely [**2-2**] HAART.  No change in last week.   Pt had Hct drop
   to 22.5 yesterday from 28.5 on admission.  Pt transfused 1 unit packed
   RBCs, Hct up to 24.8.
   -          Guiac stools
   -          Hct 24-25
   -                Continue to monitor Hct
   # History of EtOH abuse.  Now at skilled nursing, no concern for
   withdrawal issues.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-9**] 11:50 PM 40 mL/hour, added banana flakes
   to thicken stool
   Glycemic Control:  BG WNL
   Lines:
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  Famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-12**] 11:44 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2137-08-14 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2137-8-13**] 12:48 PM
 PAN CULTURE - At [**2137-8-13**] 04:05 PM
   Pt with temp spike to 102.6 rectally and diaphoretic although pt is
   cool to touch
 FEVER - 103.6
C - [**2137-8-13**] 09:34 PM
   Because of increased eos changed from cetaz to zosyn for 14 days (day 7
   today).
   continued to spike fevers to 103.6 rectal. Was pan cultured including
   off PICC line. CXR showed no change from previous. Cdiff Negative X 1.
   Sputum with GNR as before - no sensitivities yet. ID was consulted
   re:possible source of infection will see him today. No sign of
   infection around PICC.
   Started Vanco. [**2-2**] fevers O/N and concern about PICC line
   UOP dropped over the afternoon. Hypotensive with SBPs in 80s-90s and HR
   130s. Given 3X 500mL NS. with better Hr and SBPs. Then given nightly
   dose of lopressor. SBP dropped to 70s. Given an additional 500ml. SBPs
   up to 100s. HR122. Now fluid balance positive 3.3L in the past 24hrs
   Metoprolol reduced to 37.5mg PO TID from 50mg
   Yesterday afternoon was noted to have anisocoria and abduction of both
   eyes. Head CT was ordered which showed progression of PML with diffuse
   white matter involvement.
   Secretions much increased. Scopolamine patch was re-started.
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftazidime - [**2137-8-13**] 08:00 AM
   Vancomycin - [**2137-8-13**] 07:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-13**] 11:41 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-13**] 08:06 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-14**] 05:58 AM
   Other medications:
   o/n received Tylenol 1g x2 for fever
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-14**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.6
   Tcurrent: 37.8
C (100.1
   HR: 113 (99 - 136) bpm
   BP: 101/59(69) {74/31(51) - 119/71(81)} mmHg
   RR: 24 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.2 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  3,980 mL
                                                                    878 mL
   PO:
             TF:
                                                                    920 mL
                                                                    255 mL
   IVF:
                                                                  2,431 mL
                                                                    564 mL
   Blood products:
   Total out:
                                                                    681 mL
                                                                    175 mL
   Urine:
                                                                    681 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,299 mL
                                                                    703 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   GEN NAD, unconscious, coughing
   HEENT: Enlarged R pupil compared to L, sluggish response to light.
   Dolls eyes. No LAD. MMM
   CV: distant heart sounds, RRR, tachycardia, NL S1S2, no S3S4 MRG or
   JVD. Radial and DP [**1-2**]+ bilat
   PULM: Scattered wheezes bilaterally. Difficult to assess [**2-2**] lack of Pt
   participation
   ABD: BS+, NTND
   LIMBS: Pan-areflexia
   Labs / Radiology
   217 K/uL
   9.1 g/dL
   147 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   30 mg/dL
   102 mEq/L
   135 mEq/L
   26.2 %
   3.7 K/uL
        [image002.jpg]
                             [**2137-8-8**]  03:00 AM
                             [**2137-8-8**]  03:41 PM
                             [**2137-8-9**]  03:36 AM
                             [**2137-8-9**]  02:20 PM
                             [**2137-8-10**]  03:15 AM
                             [**2137-8-11**]  04:36 AM
                             [**2137-8-12**]  03:38 AM
                             [**2137-8-12**]  05:55 PM
                             [**2137-8-13**]  03:15 AM
                             [**2137-8-14**]  03:00 AM
   WBC
   2.5
   2.6
   3.1
   3.4
   4.3
   5.9
   4.8
   3.7
   Hct
   24.8
   26.0
   25.6
   25.9
   25.5
   27.1
   28.9
   28.8
   27.3
   26.2
   Plt
   187
   200
   193
   [**Telephone/Fax (3) 4190**]
   239
   217
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.7
   Glucose
   109
   114
   113
   113
   125
   116
   147
   Other labs: PT / PTT / INR:15.3/33.1/1.4, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:63/61, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:23/19, Differential-Neuts:64.0 %, Band:0.0 %,
   Lymph:24.0 %, Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.7 g/dL, LDH:233 IU/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   36 M with end stage HIV/AIDS, known PML, with trach in [**Hospital1 169**]; now admit
   with hypotension and positive blood and sputum cultures.
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   - Temp to 101 on [**8-12**], had previously, been afebrile for days
   - Repeat Cx sputum, blood, urine results as above, follow up other cx
   - Sputum from [**8-2**] showed Peudomonas, sensitive to [**Month/Day (4) **] and Zosyn.
   Given new fever on [**Month/Day (4) **] and absence of fever on zosyn, will switch
   back to Zosyn for remainder of course. Pt received 4 days of
   Vanc/zosyn, then 2 days of [**Last Name (LF) **], [**First Name3 (LF) 178**] continue zosyn through [**8-20**] for
   14 day course
   - No other clear source of infection on exam or cx
   - Added vancomycin to cover for MRSA given history of indwelling PICC (
   PICC site shows no evidence of infection, blood cx drawn off PICC line,
   will keep in for now).
   - Acetaminophen as needed for fever
   - pt has atypical lymphocytes on smear today. Will order CMV and EBV
   VLs
   - pt has pyuria O/N
 HYPOTENSION (NOT SHOCK)
   Per [**Hospital1 630**] his baseline bp appears to be mid 90s, had one BP of 84/52
   on [**8-2**] but [**Name8 (MD) **] RN supervisor appears to have been in the 90s since.
   Believes sent in more for low grade temps (up to 100.8 off and on); in
   ED had SBP 90 and has been in the 90's to 100's since.  Has advanced
   HIV but no recent CD4 count (none since prior to HAART) so therefore
   may be at high risk for infection.  Also with indwelling line x unclear
   time period.
   - Febrile [**8-12**] as above, continue to monitor
   - Blood cultures pending.
   - Sputum showed pseudomonas as above
   - back on Zosyn for pseudomonas
   - Urine showed no growth
   - 2 c.diffs negative this stay.
   - Keep PICC for now, will readdress following cx result
   - Per outside hospital records, had been on 25 Metoprolol [**Hospital1 **]; the 100
   mg QID listed by [**Hospital1 630**] is a large increase.  Titrated up Metoprolol
   to 50 mg TID today.  Will keep dosing intermediate and monitor.
   - Follow CXR and clinical signs
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - Pt s/p trach, copious secretion, and baseline colonization.
   -Will decrease scopolamine, as may contribute to fever
   - added amitripyline to decrease secretions, will titrate up to effect
   reached.
   - CXR has been stable, no need to monitor daily

 TACHYCARDIA, OTHER
   Sinus.  Likely long standing (though unclear etiology) given [**Name (NI) 169**] dosing
   of 400 mg metoprolol daily.
   - 50 mg Metoprolol TID reduced to 35.5mg
   - Monitor for hypotension
   - HR continues to be 90-115

 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Last CD4 count 17 was prior to HAART, now 53.  Has been on HAART x 4
   months.
   - Continue HAART
   - Continue atovaquone for prophylaxis.
   - Added nystatin crm for perirectal fungal rash
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive multifocal leukoencephalopathy
   Very poor mental status at baseline, does not appear changed per
   [**Hospital1 630**] reports.  Progressive neurologic impairment as expected.
   Intially considered.  Consider head CT/LP for workup of fever as above,
   though does not appear that mental status worsening- will hold off for
   now.
   - Goals of care discussion with mother, she would not want him
   intubated, would not want chest compressions- code status changed to
   DNR/DNI.

 ANEMIA, CHRONIC
   Macrocytic likely [**2-2**] HAART.  No change in last week.   Pt had Hct drop
   to 22.5 on [**2137-8-7**] from 28.5 on admission.  Pt transfused 1 unit packed
   RBCs, Hct up to 24.8 and stable since
   -          Guiac stools
   -          Hct 24-25, continue to monitor Hct
   # History of EtOH abuse.  Now at skilled nursing, no concern for
   withdrawal issues.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-9**] 11:50 PM 40 mL/hour, added banana flakes
   to thicken stool
   Glycemic Control:  BG WNL
   Lines:
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  Famotidine
   Communication:  Comments:
   Code status: DNR / DNI

2137-08-15 05:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 102.8
F - [**2137-8-14**] 02:00 PM
   Fever overnight
   Hypotension, given 250mL NS boluses
   Sinus tachycardia ON
   Family meeting with mother yesterday resulted in plan to limit
   interventions
   Communication with neurologist Dr. ???, he is free to discuss Pt over
   the phone between 11 and 12 today
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftazidime - [**2137-8-13**] 08:00 AM
   Vancomycin - [**2137-8-14**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-15**] 12:29 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-14**] 08:15 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-14**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-15**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.3
C (101
   HR: 129 (76 - 152) bpm
   BP: 77/44(51) {77/44(51) - 119/83(88)} mmHg
   RR: 22 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.2 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  2,586 mL
                                                                    946 mL
   PO:
             TF:
                                                                    971 mL
                                                                    237 mL
   IVF:
                                                                  1,240 mL
                                                                    659 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    120 mL
   Urine:
                                                                  1,115 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,471 mL
                                                                    826 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   217 K/uL
   9.1 g/dL
   147 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   30 mg/dL
   102 mEq/L
   135 mEq/L
   26.2 %
   3.7 K/uL
        [image002.jpg]
                             [**2137-8-8**]  03:00 AM
                             [**2137-8-8**]  03:41 PM
                             [**2137-8-9**]  03:36 AM
                             [**2137-8-9**]  02:20 PM
                             [**2137-8-10**]  03:15 AM
                             [**2137-8-11**]  04:36 AM
                             [**2137-8-12**]  03:38 AM
                             [**2137-8-12**]  05:55 PM
                             [**2137-8-13**]  03:15 AM
                             [**2137-8-14**]  03:00 AM
   WBC
   2.5
   2.6
   3.1
   3.4
   4.3
   5.9
   4.8
   3.7
   Hct
   24.8
   26.0
   25.6
   25.9
   25.5
   27.1
   28.9
   28.8
   27.3
   26.2
   Plt
   187
   200
   193
   [**Telephone/Fax (3) 4190**]
   239
   217
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   0.5
   0.7
   Glucose
   109
   114
   113
   113
   125
   116
   147
   Other labs: PT / PTT / INR:15.3/33.1/1.4, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:63/61, Alk Phos / T Bili:137/0.6,
   Amylase / Lipase:23/19, Differential-Neuts:64.0 %, Band:0.0 %,
   Lymph:24.0 %, Mono:6.0 %, Eos:2.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.7 g/dL, LDH:233 IU/L, Ca++:8.0 mg/dL, Mg++:1.6 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   36 M with end stage HIV/AIDS, known PML, with trach in [**Hospital1 169**]; now admit
   with hypotension and positive blood and sputum cultures.
 .H/O FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   - Temp to 101 on [**8-12**], had previously, been afebrile for days
   - Repeat Cx sputum, blood, urine results as above, follow up other cx
   - Sputum from [**8-2**] showed Peudomonas, sensitive to [**Month/Day (4) **] and Zosyn.
   Given new fever on [**Month/Day (4) **] and absence of fever on zosyn, will switch
   back to Zosyn for remainder of course. Pt received 4 days of
   Vanc/zosyn, then 2 days of [**Last Name (LF) **], [**First Name3 (LF) 178**] continue zosyn through [**8-20**] for
   14 day course
   - No other clear source of infection on exam or cx
   - Added vancomycin to cover for MRSA given history of indwelling PICC (
   PICC site shows no evidence of infection, blood cx drawn off PICC line,
   will keep in for now).
   - Acetaminophen as needed for fever
   - pt has atypical lymphocytes on smear today. Will order CMV and EBV
   VLs
   - pt has pyuria O/N
 HYPOTENSION (NOT SHOCK)
   Per [**Hospital1 630**] his baseline bp appears to be mid 90s, had one BP of 84/52
   on [**8-2**] but [**Name8 (MD) **] RN supervisor appears to have been in the 90s since.
   Believes sent in more for low grade temps (up to 100.8 off and on); in
   ED had SBP 90 and has been in the 90's to 100's since.  Has advanced
   HIV but no recent CD4 count (none since prior to HAART) so therefore
   may be at high risk for infection.  Also with indwelling line x unclear
   time period.
   - Febrile [**8-12**] as above, continue to monitor
   - Blood cultures pending.
   - Sputum showed pseudomonas as above
   - back on Zosyn for pseudomonas
   - Urine showed no growth
   - 2 c.diffs negative this stay.
   - Keep PICC for now, will readdress following cx result
   - Per outside hospital records, had been on 25 Metoprolol [**Hospital1 **]; the 100
   mg QID listed by [**Hospital1 630**] is a large increase.  Titrated up Metoprolol
   to 50 mg TID today.  Will keep dosing intermediate and monitor.
   - Follow CXR and clinical signs
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   - Pt s/p trach, copious secretion, and baseline colonization.
   -Will decrease scopolamine, as may contribute to fever
   - added amitripyline to decrease secretions, will titrate up to effect
   reached.
   - CXR has been stable, no need to monitor daily

 TACHYCARDIA, OTHER
   Sinus.  Likely long standing (though unclear etiology) given [**Name (NI) 169**] dosing
   of 400 mg metoprolol daily.
   - 50 mg Metoprolol TID reduced to 35.5mg
   - Monitor for hypotension
   - HR continues to be 90-115

 HIV (HUMAN IMMUNODEFICIENCY VIRUS, ACQUIRED IMMUNODEFICIENCY
   SYNDROME, AIDS)
   Last CD4 count 17 was prior to HAART, now 53.  Has been on HAART x 4
   months.
   - Continue HAART
   - Continue atovaquone for prophylaxis.
   - Added nystatin crm for perirectal fungal rash
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Progressive multifocal leukoencephalopathy
   Very poor mental status at baseline, does not appear changed per
   [**Hospital1 630**] reports.  Progressive neurologic impairment as expected.
   Intially considered.  Consider head CT/LP for workup of fever as above,
   though does not appear that mental status worsening- will hold off for
   now.
   - Goals of care discussion with mother, she would not want him
   intubated, would not want chest compressions- code status changed to
   DNR/DNI.

 ANEMIA, CHRONIC
   Macrocytic likely [**2-2**] HAART.  No change in last week.   Pt had Hct drop
   to 22.5 on [**2137-8-7**] from 28.5 on admission.  Pt transfused 1 unit packed
   RBCs, Hct up to 24.8 and stable since
   -          Guiac stools
   -          Hct 24-25, continue to monitor Hct
   # History of EtOH abuse.  Now at skilled nursing, no concern for
   withdrawal issues.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-9**] 11:50 PM 40 mL/hour, added banana flakes
   to thicken stool
   Glycemic Control:  BG WNL
   Lines:
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer:  Famotidine
   Communication:  Comments:
   Code status: DNR / DNI
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2137-8-15**] 12:15 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2137-8-6**] 09:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2137-08-16 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.7
F - [**2137-8-15**] 08:00 PM
   D/c'd antibiotics [**8-15**]
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Ceftazidime - [**2137-8-13**] 08:00 AM
   Vancomycin - [**2137-8-14**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2137-8-15**] 08:06 PM
   Heparin Sodium (Prophylaxis) - [**2137-8-15**] 10:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-16**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.8
C (98.3
   HR: 108 (105 - 130) bpm
   BP: 104/60(70) {87/39(49) - 112/62(70)} mmHg
   RR: 16 (10 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  2,270 mL
                                                                    313 mL
   PO:
             TF:
                                                                    960 mL
                                                                    251 mL
   IVF:
                                                                    940 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                    190 mL
   Urine:
                                                                    740 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,530 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: Trach mask  FiO2 35%
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   Gen:  NAD, supine in bed
   HEENT: Eyes open, gaze dysconjugate, mucous membranes moist, trach in
   place with copious secretions
   CV: distant heart sounds, RRR, tachycardia, NL S1S2,
   Pulm: Coarse BS bl
   Abd: BS+, ND, pt responds to palpation/pressure on abdomen
   Ext: No edema
   Skin: Warm and dry
   Labs / Radiology
   169 K/uL
   7.3 g/dL
   115 mg/dL
   0.3 mg/dL
   31 mEq/L
   3.1 mEq/L
   18 mg/dL
   103 mEq/L
   139 mEq/L
   21.7 %
   2.2 K/uL
        [image002.jpg] Granulocyte count 470, down from 810
                             [**2137-8-9**]  02:20 PM
                             [**2137-8-10**]  03:15 AM
                             [**2137-8-11**]  04:36 AM
                             [**2137-8-12**]  03:38 AM
                             [**2137-8-12**]  05:55 PM
                             [**2137-8-13**]  03:15 AM
                             [**2137-8-14**]  03:00 AM
                             [**2137-8-15**]  07:35 AM
                             [**2137-8-15**]  12:00 PM
                             [**2137-8-16**]  03:45 AM
   WBC
   3.1
   3.4
   4.3
   5.9
   4.8
   3.7
   1.5
   2.2
   Hct
   25.9
   25.5
   27.1
   28.9
   28.8
   27.3
   26.2
   24.0
   21.7
   Plt
   193
   234
   263
   [**Telephone/Fax (2) 4335**]69
   Cr
   0.5
   0.5
   0.5
   0.5
   0.7
   0.4
   0.3
   Glucose
   113
   113
   125
   116
   147
   130
   121
   115
   Other labs: PT / PTT / INR:14.2/34.4/1.2, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:92/45, Alk Phos / T Bili:97/0.4,
   Amylase / Lipase:23/19, Differential-Neuts:52.9 %, Band:0.0 %,
   Lymph:25.5 %, Mono:15.7 %, Eos:4.9 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.7 g/dL, LDH:233 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.2
   mg/dL
   EBV PCR Pending, C. diff negative [**8-15**]
   Imaging: No CXR this morning
   Assessment and Plan
   36 M with end stage HIV/AIDS, known PML, with trach in [**Hospital1 169**]; now admit
   with hypotension and fever.
   #. Fevers: Continues to spike fevers despite antibiotics and suspicion
   of a central process rather than infectious. No cultures positive
   except the PSA in sputum which is likely colonization.  Antibiotics
   d/c
d [**8-15**] as per ID recs. Will re-initiate if patient becomes
   unstable.
   -          CMV Ab not detected
   -          C. diff negative [**8-15**]
   -          EBV PCR pending
   -          ANC down to 470, t hough WBC count increased
   -          Tylenol 650 mg q 6hrs
   -          Cx for temp spikes if no cx in previous 48 hrs
   #. Hypotension: Have discontinued beta blocker. Will give fluids as
   necessary.
   #. HIV/AIDS: Continuing HAART and PPX
   #. Inability to protect airway now s/p trach. On trach mask satting
   well.
   -          Increase Amytriptiline to reduce secretions.
   -          Continue scopolamine patch
   .
   #. Sinus Tachycardia:  Pt has been off Metoprolol for several days, and
   HR remains in 110s.  This may be due to developing anemia, see below.
   # Anemia: Hct down to 21.7 from 24 yesterday, without a clear source or
   cause.
   -          Recheck PM Hct
   -          Guiac stools
   -          Transfuse 1 unit if Hct < 21
   -          Consider further evaluation of abdominal pain if continued
   decrease in Hct
   #. PML: Prognosis and quality of life quite poor now. Mother  aware and
   still working out extent of management they want to continue. Spoke
   with Dr. [**Last Name (STitle) 4304**] who had seen the patient before but never actually
   been his primary neurologist. Will formally consult with neuro if we
   feel it will change our management but for now will hold off. Will
   update Dr. [**Last Name (STitle) 4304**] with details. Will approach family about a
   post-mortem to eval PML.
   #. H/O EtOH abuse: None since has been at [**Hospital1 630**] and no reason to be
   concerned about withdrawal.
   #. ICU CARE:
   - Nutrition: Nutren 2.0 with 50mg Beneprotein at 40mL/hour with banana
   flakes to thicken stool
   - Glycemic control: BGs WNL
   - Lines: PICC Line present at admission.
   #. PPX:
   - DVT: SC Heparin
   - Stress ulcer: Famotidine
   # Code Status: DNR/DNI with no pressors and no escalation of care.
   Family want antibiotics, fluids, nutrition, anti-pyretics, and
   narcotics. Will give morphine if patient appears uncomfortable.
   # Communication: Mother [**Name (NI) 249**] is HCP; number is [**Telephone/Fax (1) 3958**]
   .
   # Dispo: ICU while inpatient, nursing needs currently exceed floor
   capacity.   Can discuss transfer to floor next week or possible return
   to rehab if patient remains afebrile.

2137-08-17 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Standing tylenol
   1 unit pRBCs with hct 21-> 26
   Allergies:
   Dapsone
   Abdominal pain;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Abdominal pain;
   Last dose of Antibiotics:
   Vancomycin - [**2137-8-14**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2137-8-15**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2137-8-16**] 02:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-8-17**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 129 (109 - 129) bpm
   BP: 110/64(74) {86/46(55) - 113/72(81)} mmHg
   RR: 13 (11 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84 kg (admission): 82.3 kg
   Height: 72 Inch
             Total In:
                                                                  1,959 mL
                                                                    326 mL
   PO:
             TF:
                                                                    959 mL
                                                                    261 mL
   IVF:
                                                                    440 mL
                                                                     65 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  1,340 mL
                                                                    165 mL
   Urine:
                                                                  1,340 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    619 mL
                                                                    161 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   215 K/uL
   8.8 g/dL
   112 mg/dL
   0.4 mg/dL
   30 mEq/L
   3.8 mEq/L
   15 mg/dL
   99 mEq/L
   136 mEq/L
   26.3 %
   2.9 K/uL
        [image002.jpg]
   DIFFERENTIAL
                                    Neuts
                                    Bands
                                   Lymphs
                                    Monos
                                     Eos
                                    Baso
                                    Atyps
                                    Metas
                                   Myelos
   [1][**2137-8-17**] 04:09AM
                                     40*
                                      0
                                     44*
                                      6
                                     7*
                                      0
                                     3*
                                      0
                                      0
   ANC 910   CD4 53
                             [**2137-8-11**]  04:36 AM
                             [**2137-8-12**]  03:38 AM
                             [**2137-8-12**]  05:55 PM
                             [**2137-8-13**]  03:15 AM
                             [**2137-8-14**]  03:00 AM
                             [**2137-8-15**]  07:35 AM
                             [**2137-8-15**]  12:00 PM
                             [**2137-8-16**]  03:45 AM
                             [**2137-8-16**]  03:43 PM
                             [**2137-8-17**]  04:09 AM
   WBC
   3.4
   4.3
   5.9
   4.8
   3.7
   1.5
   2.2
   2.9
   Hct
   27.1
   28.9
   28.8
   27.3
   26.2
   24.0
   21.7
   25.8
   26.3
   Plt
   [**Telephone/Fax (3) 4395**]15
   Cr
   0.5
   0.5
   0.5
   0.7
   0.4
   0.3
   0.3
   0.4
   Glucose
   113
   125
   116
   147
   130
   121
   115
   107
   112
   Other labs: PT / PTT / INR:12.4/26.1/1.0, CK / CKMB /
   Troponin-T:21//<0.01, ALT / AST:71/31, Alk Phos / T Bili:99/0.3,
   Amylase / Lipase:23/19, Differential-Neuts:40.0 %, Band:0.0 %,
   Lymph:44.0 %, Mono:6.0 %, Eos:7.0 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.9 g/dL, LDH:233 IU/L, Ca++:8.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
   36 M with end stage HIV/AIDS, known PML, with trach in [**Hospital1 169**]; now admit
   with hypotension and fever.
   #. Fevers: Continues to spike fevers despite antibiotics and suspicion
   of a central process rather than infectious. No cultures positive
   except the PSA in sputum which is likely colonization.  Antibiotics
   d/c
d [**8-15**] as per ID recs. Will re-initiate if patient becomes
   unstable.
   -          CMV Ab not detected
   -          C. diff negative [**8-15**]
   -          EBV PCR pending
   -          ANC down to 470, t hough WBC count increased
   -          Tylenol 650 mg q 6hrs
   -          Cx for temp spikes if no cx in previous 48 hrs
   #. Hypotension: Have discontinued beta blocker. Will give fluids as
   necessary.
   #. HIV/AIDS: Continuing HAART and PPX
   #. Inability to protect airway now s/p trach. On trach mask satting
   well.
   -          Increase Amytriptiline to reduce secretions.
   -          Continue scopolamine patch
   .
   #. Sinus Tachycardia:  Pt has been off Metoprolol for several days, and
   HR remains in 110s.  This may be due to developing anemia, see below.
   # Anemia: Hct down to 21.7 from 24 yesterday, without a clear source or
   cause.
   -          Recheck PM Hct
   -          Guiac stools
   -          Transfuse 1 unit if Hct < 21
   -          Consider further evaluation of abdominal pain if continued
   decrease in Hct
   #. PML: Prognosis and quality of life quite poor now. Mother  aware and
   still working out extent of management they want to continue. Spoke
   with Dr. [**Last Name (STitle) 4304**] who had seen the patient before but never actually
   been his primary neurologist. Will formally consult with neuro if we
   feel it will change our management but for now will hold off. Will
   update Dr. [**Last Name (STitle) 4304**] with details. Will approach family about a
   post-mortem to eval PML.
   #. H/O EtOH abuse: None since has been at [**Hospital1 630**] and no reason to be
   concerned about withdrawal.
   #. ICU CARE:
   - Nutrition: Nutren 2.0 with 50mg Beneprotein at 40mL/hour with banana
   flakes to thicken stool
   - Glycemic control: BGs WNL
   - Lines: PICC Line present at admission.
   #. PPX:
   - DVT: SC Heparin
   - Stress ulcer: Famotidine
   # Code Status: DNR/DNI with no pressors and no escalation of care.
   Family want antibiotics, fluids, nutrition, anti-pyretics, and
   narcotics. Will give morphine if patient appears uncomfortable.
   # Communication: Mother [**Name (NI) 249**] is HCP; number is [**Telephone/Fax (1) 3958**]
   .
   # Dispo: DNR/DNI ICU while inpatient, nursing needs currently exceed
   floor capacity.   Can discuss transfer to floor next week or possible
   return to rehab if patient remains afebrile.
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22);